US07465726B2
1-{4-[4-(1H-Indazol-5-ylamino)-7H-pyrrolo[2,3-d]-pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-yl}-2-phenylethanone
To a solution of (1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]amine tri-hydrochloride (73.6 mg, 0.2 mmol) and phenylacetyl chloride (31 mg, 0.2 mmol) in dichloromethane (1.5 mL) was added i-Pr2NEt (0.1 mL). The resulting mixture was stirred at rt for 3 h. MeOH (0.3 mL) was added to quench the reaction. Solvents were removed and the residue was dissolved in DMF (≈2 mL), which was purified by mass-directed HPLC to obtain the title compound. 1H-NMR (DMSO-d6, 400 MHz): δ=2.34 (m, 2H), 3.72 (t, J=5.6 Hz, 2H), 3.80 (d, J=17.6 Hz, 2H), 4.21 (d, J=35.6 Hz, 2H), 6.40 (s, 1H), 6.73 (d, J=38.4 Hz, 1H), 7.22-7.34 (m, 4H), 7.51 (d, J=8.8 Hz, 1H), 7.63 (m, 1H), 8.04 (s, 1H), 8.25 (d, J=4.4 Hz, 1H), 8.37 (t, J=7.2 Hz, 1H), 9.33 (d, J=13.6 Hz, 1H), 11.92 (d, J=14.8 Hz, 1H), 12.97 (s, 1H). MS (ES+): m/z 450.07 [MH+]. HPLC: tR=2.17 min (ZQ2000, polar—5 min).

reactant | (1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]amine tri-hydrochloride | 0.2 mmol, 73.6 mg | Cl.Cl.Cl.N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCNCC2
reactant | phenylacetyl chloride | 0.2 mmol, 31 mg | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | i-Pr2NEt | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | MeOH | 0.3 mL | CO | CH4O
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 1-{4-[4-(1H-Indazol-5-ylamino)-7H-pyrrolo[2,3-d]-pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-yl}-2-phenylethanone | N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(CC2=CC=CC=C2)=O | C26H23N7O
